US06288120B1
5-{3-[(4-Butyl-benzyl)-amino]-propyl}-thiophene-2-carboxylic acid methyl ester.
A mixture of 4-butylbenzaldehyde (250 mg, 1.541 mmol), 5-(3-amino-propyl)-thiophene-2-carboxylic acid methyl ester hydrochloride (403 mg, 1.695 mmol), and Na2SO4 (2.189 g, 15.41 mmol) in MeOH (10 mL) was heated at reflux for 4.5 h and additional Na2SO4 (2.19 g) was added. The reaction was heated at reflux for 1 h and was cooled to room temperature. The solids were filtered off with the aid of MeOH and the volatiles were removed in vacuo. The residue was dissolved in THF (10 mL) and CH2Cl2 (10 mL) and the solution was cooled to 0° C. Acetic acid (185 mg, 3.082 mmol) was added followed by sodium triacetoxyborohydride (653 mg, 3.082 mmol) and the reaction was stirred at room temperature for 16 h. The reaction was diluted with EtOAc and the organic solution was washed with aqueous NaHCO3 followed by brine. The organic solution was dried over MgSO4, filtered, and concentrated. Purification by flash chromatography (99:1 CHCl3:MeOH to 97.5:2.5 CHCl3:MeOH) provided the title compound (309 mg). MS 346 (MH+).

reactant | 4-butylbenzaldehyde | 1.541 mmol, 250 mg | C(CCC)C1=CC=C(C=O)C=C1 | C11H14O
reactant | 5-(3-amino-propyl)-thiophene-2-carboxylic acid methyl ester hydrochloride | 1.695 mmol, 403 mg | Cl.COC(=O)C=1SC(=CC1)CCCN
reactant | Na2SO4 | 15.41 mmol, 2.189 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | Na2SO4 | 2.19 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | Acetic acid | 3.082 mmol, 185 mg | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 3.082 mmol, 653 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | MeOH | 10 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-{3-[(4-Butyl-benzyl)-amino]-propyl}-thiophene-2-carboxylic acid methyl ester | 309 mg | COC(=O)C=1SC(=CC1)CCCNCC1=CC=C(C=C1)CCCC | C20H27NO2S
